US07419984B2
6-(5-Chloro-2-ethoxy-phenyl)-N*4*-p-tolyl-pyrimidine-2,4-diamine
To a stirred suspension of 4-chloro-6-(5-chloro-2-ethoxy-phenyl)-pyrimidin-2-ylamine (0.030 g, 0.106 mmol) in ethanol (5 ml) was added a solution of hydrogen chloride in dioxane (4.0 M, 0.015 ml) followed by p-tolylamine (0.014 g, 0.127 mmol). After heating under reflux for 3.5 hours, the volatiles were evaporated under reduced pressure. The residue was treated with 1.0 M hydrochloric acid (10 ml) and stirred overnight. After filtration, the solid was dissolved in methanol (10 ml) and treated with aqueous sodium carbonate solution (1.0 M, 1 ml). After stirring for 0.5 hours, the volatiles were evaporated under reduced pressure, the solid was stirred with water (10 ml) for 15 minutes, and filtered to provide the title compound (0.020 g, 53% yield) as a white powder. 1H NMR (DMSO-d6) δ 1.37 (t, 3H, J=6.8 Hz, CH3), 2.27 (s, 3H, CH3), 4.12 (q, 2H, J=6.6 Hz, CH2), 6.25 (s, 2H, NH2), 6.75 (s, 1H, Ar), 7.10-7.14 (m, 3H, Ar), 7.40-7.42 (m, 1H, Ar), 7.55 (d, 2H, J=8.0 Hz, Ar), 7.92 (s, 1H, Ar), 9.05 (s, 1H, NH).

reactant | 4-chloro-6-(5-chloro-2-ethoxy-phenyl)-pyrimidin-2-ylamine | 0.106 mmol, 0.030 g | ClC1=NC(=NC(=C1)C1=C(C=CC(=C1)Cl)OCC)N | C12H11Cl2N3O
reactant | hydrogen chloride | Cl | ClH
reactant | p-tolylamine | 0.127 mmol, 0.014 g | CC=1C=CC(=CC1)N | C7H9N
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | dioxane | 4.0 M, 0.015 ml | O1CCOCC1 | C4H8O2
product | 6-(5-Chloro-2-ethoxy-phenyl)-N*4*-p-tolyl-pyrimidine-2,4-diamine | 0.020 g, 53% yield | ClC=1C=CC(=C(C1)C1=CC(=NC(=N1)N)NC1=CC=C(C=C1)C)OCC | C19H19ClN4O
